US07414060B2
Step 2: 3-Iodo-6-methyl-pyridine-2-carboxylic acid (3-chloro-phenyl)-amide
A solution of 6-Methyl-pyridine-2-carboxylic acid-(3-chloro-phenyl)-amide (1.96 g, 7.9 mmol) in THF (20.0 ml) was cooled to −78° C. A 1.6 M solution of n-BuLi in hexane (11.0 ml, 17.6 mmol, 2.2 equiv.) was added dropwise and the reaction was stirred for 30 min at −78° C. A solution of 2.02 g (7.9 mmol) of iodine in THF (20.0 ml) was added dropwise maintaining the temperature below −75° C. After 5 min, the reaction mixture was allowed to warm up to r.t. The mixture was quenched by the addition of sat. ammonium sulfate soln. (5 ml) and 40% sodium hydrogensulfite solution (5 ml). The pH of the solution was adjusted to 8 by the addition of sat. bicarbonate soln. The mixture was then extracted twice with ethyl acetate. The combined organic phases were washed with water, dried over magnesium sulfate and concentrated in vaccuo. The dark brown residue (2.66 g) was purified by flash chromatography (heptane/ethyl acetate 9:1) to yield a the title compound as a beige solid (total 1.42 g, 48%), MS (ISP): m/e=373.0, 375.0 (M+H+).

reactant | 6-Methyl-pyridine-2-carboxylic acid-(3-chloro-phenyl)-amide | 7.9 mmol, 1.96 g | ClC=1C=C(C=CC1)NC(=O)C1=NC(=CC=C1)C | C13H11ClN2O
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 17.6 mmol, 11.0 ml, 2.2 equiv. | CCCCCC | C6H14
reactant | iodine | 7.9 mmol, 2.02 g | II | I2
solvent | THF | 20.0 ml | C1CCOC1 | C4H8O
solvent | THF | 20.0 ml | C1CCOC1 | C4H8O
product | 3-Iodo-6-methyl-pyridine-2-carboxylic acid (3-chloro-phenyl)-amide | 1.42 g, 48% | ClC=1C=C(C=CC1)NC(=O)C1=NC(=CC=C1I)C | C13H10ClIN2O
